US09216972B2
To a solution of (E)-methyl 4-(1-(4-fluorophenyl)cyclohexyl)but-3-enoate (Intermediate I-11C, 421 mg, 1.523 mmol) in methanol (20 mL) was added about 100 mg of 10% Pd on carbon (wet, 50%), and the mixture was stirred under hydrogen (50 psi) overnight. The catalyst was filtered off and the solvent was evaporated off to give the desired methyl 4-(1-(4-fluorophenyl)cyclohexyl)butanoate (quantitative yield) as an oil. 1H NMR (400 MHz, CDCl3) δ ppm 7.26 (2H, dd, J=8.91, 5.39 Hz), 7.00 (2H, t, J=8.80 Hz), 4.07 (2H, q, J=7.12 Hz), 2.12 (2H, t, J=7.37 Hz), 2.04 (2H, dd, J=13.42, 5.72 Hz), 1.24-1.63 (12H, m), 1.21 (3H, t, J=7.15 Hz).

reactant | (E)-methyl 4-(1-(4-fluorophenyl)cyclohexyl)but-3-enoate | 1.523 mmol, 421 mg | FC1=CC=C(C=C1)C1(CCCCC1)/C=C/CC(=O)OC | C17H21FO2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd on carbon | about 100 mg | [Pd] | Pd
product | methyl 4-(1-(4-fluorophenyl)cyclohexyl)butanoate | quantitative yield | FC1=CC=C(C=C1)C1(CCCCC1)CCCC(=O)OC | C17H23FO2
